datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5][H:21])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[H:22])([H:18])([H:19])[H:20],71.128
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([C:22]([S:23][H:28])[H:27])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:22]([C:21]([H:24])([H:25])[H:26])([S:23][H:28])[H:27],13.8072
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11](=[S:12])[H:15])([H:13])[H:14]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:10]([C:11](=[S:12])[H:15])([H:13])[H:14],35.9824
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([H:10])[H:11])([H:8])[H:9]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:8])[H:3].[C:6](=[C:7]([H:10])[H:11])[H:9],118.909
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:33])([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0]([C:1](=[C:2]([H:15])[H:16])[H:14])([H:12])([H:13])[H:19].[C:3](=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:33])([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])[H:20])([H:17])[H:18],224.898368
[O:1][H:2].[O:3]=[N+:4]([O-:5])[H:6]>>[O:1]([H:2])[H:6].[O:3][N:4]=[O:5],-3.30536
[C:0](#[C:1][C:2](=[O:3])[H:5])[H:4].[H:6]>>[C:0](#[C:1][C:2]([O:3])([H:5])[H:6])[H:4],20.0832
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]([C:11]([H:23])([H:24])[H:25])=[C:12]([C:13]([H:26])([H:27])[H:28])[c:14]1[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]([H:32])[c:19]1[H:33])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:20])([H:21])[H:22])([C:11]([H:23])([H:24])[H:25])[C:12]([C:13]([H:26])([H:27])[H:28])[c:14]1[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]([H:32])[c:19]1[H:33])[H:4],40.9195
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])[C:8]1([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:13])([H:11])[H:12],79.6634
[C:0]([C:1]([S:2][C:3]([H:9])([H:10])[H:11])([H:7])[H:8])([H:4])([H:5])[H:6].[H:12]>>[C:0]([C:1]([S:2][H:12])([H:7])[H:8])([H:4])([H:5])[H:6].[C:3]([H:9])([H:10])[H:11],12.1336
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[O:15][O:16][H:17]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:12][O:15][O:16][H:17],68.99416
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9][O:10][H:11]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])[H:4].[H:3][O:9][O:10][H:11],87.0213424
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:9]([C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13])[H:5],48.9946
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])[O:6][O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])=[O:6])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7][H:16],6.276
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[O:14]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][O:14],32.8444
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[S:7][H:8]>>[C:0]([C:1]([S:2])([H:6])[S:7][H:8])([H:3])([H:4])[H:5],-5.69024
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25](=[C:26][C:27]([H:30])([H:31])[H:32])([H:28])[H:29]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:26](=[C:25]([H:28])[H:29])[C:27]([H:30])([H:31])[H:32],7.5312
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([O:13])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:13][C:12]([H:14])([H:15])[H:16],36.020056
